US07592456B2
3-Chloroperoxybenzoic acid (2.85 g, 12.7 mmol) was added to a stirred solution of (1S)-1-{2-[(6-bromo-2-naphthyl)thio]phenyl}ethanol (2.28 g, 6.3 mmol) in dichloromethane (50 mL) at ambient temperature under nitrogen. Calcium hydroxide (1.50 g, 20.2 mmol) was added after 2 hours, stirred for a further 1 hour then filtered and concentrated in vacuo. Purification by flash column chromatography eluting with a 10-40% ethyl acetate/isohexane gradient followed by trituration using isohexane gave solid (1S)-1-{2-[(6-bromo-2-naphthyl)sulfonyl]phenyl}ethanol (1.47 g, 59%). 1H NMR (500 MHz, CDCl3) δ 8.50 (1H, s), 8.16 (1H, d, J 7.9 Hz), 8.08 (1H, s), 7.90-7.82 (2H, m), 7.77-7.70 (3H, m), 7.67 (1H, t, J 7.5 Hz), 7.50 (1H, t, J 7.7 Hz), 5.60 (1H, q, J 6.3 Hz), 2.46 (1H, s), 1.33 (3H, d, J 6.3 Hz); m/z (ES+) 373, 375 [(M-OH)+].

reactant | 3-Chloroperoxybenzoic acid | 12.7 mmol, 2.85 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | (1S)-1-{2-[(6-bromo-2-naphthyl)thio]phenyl}ethanol | 6.3 mmol, 2.28 g | BrC=1C=C2C=CC(=CC2=CC1)SC1=C(C=CC=C1)[C@H](C)O | C18H15BrOS
reactant | Calcium hydroxide | 20.2 mmol, 1.50 g | [OH-].[Ca+2].[OH-]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (1S)-1-{2-[(6-bromo-2-naphthyl)sulfonyl]phenyl}ethanol | 1.47 g, 59% | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=C(C=CC=C1)[C@H](C)O | C18H15BrO3S
